US06441237B1
3-(2,6-Difluorophenyl)methoxy-2-(2,6-dimethylphenyl)-propylamine-hydrochloride (8)
A strong current of HCl gas is piped into a solution of 23 g (57 mmol) of N-tert.-butoxycarbonyl-3-(2,6-difluorophenyl)methoxy-2-(2,6-dimethylphenyl)-propylamine in 23 ml of ethyl acetate for 3 min. The mixture is left to react for 30 min, the solvent is eliminated in vacuo and the residue taken up in 30 ml of toluene. The solvent is again eliminated in vacuo and the residue crystallised from ether. Yield: 18.5 g (95%), melting point: 123° C.

reactant | HCl | Cl | ClH
reactant | N-tert.-butoxycarbonyl-3-(2,6-difluorophenyl)methoxy-2-(2,6-dimethylphenyl)-propylamine | 57 mmol, 23 g | C(C)(C)(C)OC(=O)NCC(COCC1=C(C=CC=C1F)F)C1=C(C=CC=C1C)C | C23H29F2NO3
solvent | ethyl acetate | 23 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2,6-Difluorophenyl)methoxy-2-(2,6-dimethylphenyl)-propylamine-hydrochloride | Cl.FC1=C(C(=CC=C1)F)COCC(CN)C1=C(C=CC=C1C)C | InChI=1S/C18H21F2NO.ClH/c1-12-5-3-6-13(2)18(12)14(9-21)10-22-11-15-16(19)7-4-8-17(15)20;/h3-8,14H,9-11,21H2,1-2H3;1H
